US07579360B2
Compound 1A. 1-(3-((tert-Butyldimethylsilyloxy)methyl)pyridin-2-yl)hydrazine
To a solution of (2-chloropyridin-3-yl)methanol (3.4 g, 23.7 mmol) in 50 mL of dichloromethane was added imidazole (2.4 g, 35.3 mmol) and tert-butyldimethylsilyl chloride (4.3 g, 28.5 mmol) at RT. The mixture was stirred at RT for 60 min, and then diluted with 100 mL of hexanes. The white solid was filtered off, and the filtrate was concentrated under reduced pressure. Additional solid was removed by triturating with 5% ethyl acetate in hexanes to provide a pale yellow oil. The pale yellow oil was dissolved in 40 mL of dioxane and then hydrazine (7.5 mL, 238.7 mmol) was added. The resulting mixture was heated to reflux for 36 h. After this time, the mixture was cooled to RT, and the solvent was removed in vacuo to provide a residue. The residue was diluted with ethyl acetate, washed with water, dried over Na2SO4 and concentrated under reduced pressure to give the title compound (4.7 g, 78%) as a brown oil. HPLC Rt (Method A): 2.42 min. LC/MS (m/z)=254 (M+H)+.

reactant | (2-chloropyridin-3-yl)methanol | 23.7 mmol, 3.4 g | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | imidazole | 35.3 mmol, 2.4 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 28.5 mmol, 4.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | hydrazine | 238.7 mmol, 7.5 mL | NN | H4N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-((tert-Butyldimethylsilyloxy)methyl)pyridin-2-yl)hydrazine | 4.7 g, 78% | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)NN | C12H23N3OSi
